US03946049
C. 5-(p-Methoxyphenyl)-2-furonitrile
A 500 ml three-necked flask equipped with stirrer, thermometer and reflux condenser was charged with 5-(p-methoxyphenyl)-2-furaldehyde oxime (28 g, 0.129 mole) and acetic anhydride (317 ml). This mixture was refluxed (138°) for 3 hours. After cooling to room temperature overnight, the green solution was poured into ice water (ca. 2l. ) with stirring. When the ice melted, the solid was collected by filtration, washed with water, and dried to give 26 g.

reactant | 5-(p-methoxyphenyl)-2-furaldehyde oxime | 0.129 mole, 28 g | COC1=CC=C(C=C1)C1=CC=C(O1)C=NO | C12H11NO3
reactant | acetic anhydride | 317 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ether | CCOCC | C4H10O
product | 5-(p-Methoxyphenyl)-2-furonitrile | COC1=CC=C(C=C1)C1=CC=C(O1)C#N | C12H9NO2
